US07141596B2
Step 6. [4-((2S)-2-[(Benzyloxy)carbonyl]amino-3-methoxy-3-oxopropyl)-2-methylphenyl]boronic acid
A solution of methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate (6.90 g, 15.2 mmol), sodium periodate (16.3 g, 76.1 mmol), tetrahydrofuran (156 mL), ammonium acetate (4.69 g, 60.9 mmol) and water (156 mL) was stirred at 25° C. for 24 h. The reaction was diluted with ethyl acetate and 1 N HCl solution. The aqueous solution was extracted with ethyl acetate once. The combined organic solutions were washed with brine, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was crystallized in ethyl acetate to yield the desired product (5.65 g, 80%). 1H NMR (400 MHz, CD3OD): δ 7.3 (m, 5H), 7.16 (d, 1H), 7.0 (m, 2H), 5.02 (m, 2H), 4.42 (m, 1H), 3.68 (s, 3H), 3.10 (m, 1H), 2.88 (m, 1H), 2.28 (s, 3H); MF=C19H22BNO6; LCMS found for C19H23BNO6 (M+H)+: m/z=372.

reactant | methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate | 15.2 mmol, 6.90 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C25H32BNO6
reactant | sodium periodate | 76.1 mmol, 16.3 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | tetrahydrofuran | 156 mL | O1CCCC1 | C4H8O
reactant | ammonium acetate | 60.9 mmol, 4.69 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1 N | Cl | ClH
solvent | water | 156 mL | O | H2O
product | [4-((2S)-2-[(Benzyloxy)carbonyl]amino-3-methoxy-3-oxopropyl)-2-methylphenyl]boronic acid | 5.65 g, 80% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC(=C(C=C1)B(O)O)C)C(=O)OC | C19H22BNO6
